US07727988B2
5-(2-fluoro-3-pyridinyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (Prep88)
A solution of 5-(2-fluoro-3-pyridinyl)-2,4-bis(methyloxy)pyrimidine (Prep87, 2.8 g, 11.90 mmol) in HCl 4M in 1,4dioxane (42 mL, 168 mmol) was heated at 90° C. for 1 h. A white precipitate crashed out of the solution. Volatiles were evaporated under reduced pressure to give title compound, pale yellow solid (2.75 g).

reactant | 5-(2-fluoro-3-pyridinyl)-2,4-bis(methyloxy)pyrimidine | 11.90 mmol, 2.8 g | FC1=NC=CC=C1C=1C(=NC(=NC1)OC)OC | C11H10FN3O2
reactant | 1,4dioxane | 168 mmol, 42 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4M | Cl | ClH
product | 5-(2-fluoro-3-pyridinyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC1=NC=CC=C1C=1C(NC(NC1)=O)=O | InChI=1S/C9H6FN3O2.ClH/c10-7-5(2-1-3-11-7)6-4-12-9(15)13-8(6)14;/h1-4H,(H2,12,13,14,15);1H
